Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall with ICH, delirium
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 This is an ___ with ___ body dementia, not on anticoagulation 
who had witnessed fall on ___ with possible headstrike. Per 
report patient had no preceding dizziness, lightheadedness, or 
chest pain. Fall was witnessed by wife. He presented to ___ 
___ where head CT showed intracranial hemorrhage vs. 
calcification, CXR and pelvic X-ray
wnl. Patient developed significant hypertension while at ___, repeat head CT showed no changes. He was evaluated by 
physical therapy at ___ who recommended ___ rehab. 
He was transferred to ___ for further evaluation of ICH. Here, 
his CXR was negative, CT C spine showed no acute fracture and 
likely degenerative
changes at C3-C4. Patient was evaluated by neurosurgery who 
noted
patient was A&Ox1 and able to follow commands, they recommended
ED obs and ___ evaluation. Overnight he became agitated and
complained of worsening headache. Repeat head CT this morning
showed stable small 3.5-mm R intraparenchymal hemorrhage. 
Patient was evaluated by ACS who found patient had negative 
tertiary survey and no evidence of acute trauma. Given lack of 
infectious cause, unchanged head CT, and concern that patient's 
mental status was not at baseline, decision was made to admit 
patient for workup of delirium as he was deemed to be unsafe to 
send home.  Of note, patient was thought to be at baseline 
mental status AOx1-2 with no new confusion or change from 
baseline on initial presentation at ___. 

Reportedly had insurance issues so patient had not seen PCP in 
several months and had also stopped home medications over the 
last month. These medications had been restarted over the last 
week. Family is considering nursing home placement in the future 
but not at this time.

Further collateral was obtained from his son. Some days, patient 
talks very little but other days it is possible to have a 
conversation with him. If he feels he is being pressured in 
anyway, he will stay quiet and will not participate in 
conversation. Patient will fall every few months. He will 
frequently refuse to his cane. His personality has become very 
resistant to cooperate with anyone, worsened with ___ Body 
dementia. Patient will typically know what season it is but may 
not know details of year/month. Son does note that over the last 
___ months, patient has been spending more time in bed - he may 
be in bed until ___ some days and return to sleep again at 
9pm.

In the ED, initial vitals:  
18:00 0 99.1 90 ___ RA 
Exam was notable for patient alert and oriented to self. CN ___ 
intact. ___ strength throughout. Sensation to light touch 
intact.
Otherwise, nontender throughout.
Labs were significant for normal chem 10 with creat 1.2, 
negative u/a 
Imaging showed  
He received 10mg hydralazine X 4 for SBP 220s, later found to be 
artifactual in the setting of flexed forearm. He was also given 
1mg Ativan and 12.5mg zyprexa total for agitation. 
Vitals prior to transfer:  Today 17:52 asleep 72 156/84 16 96% 
RA 
On the floor,  patient is asleep and only intermittently will 
answer questions. 
 
ROS:  
Unable to obtain. 
 
Past Medical History:
___ body dementia (moderate to severe, AAOx1-2 at baseline), 
diagnosed ___ years
HLD
 
Social History:
___
Family History:
n/c
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS:  ___/75 ___ 18 97%RA 82kg 
Gen: chronically ill appearing male, appears somnolent but 
arouseable to voice, unwilling to participate in exam
HEENT: PERRL, ncat
Cardiac: RRR, II/VI systolic murmur loudest at RUSB, no rubs,
gallops
Pulm: CTA anteriorly
Abd: soft, non-tender, non-distended, no organomegaly
Ext: 2+ DP and radial pulses, moving extremities spontaneously
Neuro: unwilling to participate in majority of exam and resists 
active ROM; mild cogwheel rigidity noted of LUE

DISCHARGE PHYSICAL EXAM
Vitals: T97.6 BP145/94 (120-150sbp)HR50 RR17 100%RA
Gen: chronically ill appearing male, awake and alert, oriented 
to himself, speaking appropriately, pleasant
HEENT: ncat, PERRL, EOMI
Cardiac: RRR, II/VI systolic murmur loudest at RUSB, no rubs,
gallops
Pulm: CTAB
Abd: soft, non-tender, non-distended, no organomegaly
Ext: 2+ DP and radial pulses, moving extremities spontaneously, 
___ strength in b/l ___, sensation intact throughout
 
Pertinent Results:
ADMISSION LABS
___ 06:22PM BLOOD WBC-6.7 RBC-4.29* Hgb-11.8* Hct-36.9* 
MCV-86 MCH-27.5 MCHC-32.0 RDW-14.2 RDWSD-44.9 Plt ___
___ 06:22PM BLOOD Neuts-75.1* Lymphs-13.5* Monos-9.6 
Eos-0.6* Baso-0.9 Im ___ AbsNeut-5.06 AbsLymp-0.91* 
AbsMono-0.65 AbsEos-0.04 AbsBaso-0.06
___ 06:22PM BLOOD ___ PTT-26.7 ___
___ 06:22PM BLOOD Glucose-107* UreaN-21* Creat-1.2 Na-139 
K-3.8 Cl-103 HCO3-26 AnGap-14
___ 06:25AM BLOOD Calcium-9.4 Phos-4.6* Mg-2.3

URINE
___ 09:20PM URINE Color-Straw Appear-Clear Sp ___
___ 09:20PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

MICROBIOLOGY
___ URINE CULTURE (Final ___:    NO GROWTH.

IMAGING
___ CT C-SPINE W/O CONTRAST
1. No acute fracture. 
2. Minimal anterolisthesis of C3 on C4 is likely degenerative in 
nature.  
However in the absence of prior imaging studies, if there is 
focal tenderness at this level, MRI may be obtained as 
indicated. 
3. Multilevel degenerative changes as described above, 
particularly at C5-C6 with moderate spinal canal stenosis. 
 
___ CT HEAD W/O CONTRAST
1. 3.5-mm small right subependymal intraparenchymal hemorrhage, 
adjacent to right posterior lateral ventricle, unchanged from 
the outside exam at 13:03h and minimally increased to-no change 
from ___ at 23:04 hrs.  No mass effect. 
2.  Prominent ventricles and sulci, likely involutional.  
3.  Probable sequelae of chronic small vessel ischemic disease.  

4.  Old left lacunar infarcts. 

___ CXR
No acute cardiopulmonary process. 

___ MRI CERVICAL SPINE W/O CONTRAST
Multilevel degenerative changes most notable at C5-6 and C6-7 
where there is ossification of posterior longitudinal ligament 
and uncovertebral joint 
hypertrophy which result in moderate canal narrowing with 
chronic remodeling of the cord and neural foraminal narrowing as 
detailed above. 
No evidence of ligamentous injury or cord signal abnormality. 

DISCHARGE LABS
___ 06:34AM BLOOD WBC-5.8 RBC-3.72* Hgb-10.3* Hct-33.2* 
MCV-89 MCH-27.7 MCHC-31.0* RDW-14.6 RDWSD-46.7* Plt ___
___ 06:34AM BLOOD Glucose-81 UreaN-25* Creat-1.3* Na-140 
K-4.1 Cl-108 HCO3-24 AnGap-12
___ 06:34AM BLOOD Calcium-8.6 Phos-4.1 Mg-1.___ with ___ body dementia, not on anticoagulation who had 
witnessed fall with possible headstrike, with CT head showing 
isolated small intraparenchymal hemorrhage on subsequent 
imaging. 

# Fall: Patient likely has underlying impulsive tendencies in 
the setting of decreased executive function and gait instability 
secondary to ___ body dementia which contributed to his fall. 
MRI cervical c-spine is relatively reassuring with some stenosis 
with ossified posterior longitudinal ligament but does not 
appear to have significant cord signal changes. Patient was 
maintained in soft C-collar for comfort and sleep. He has 
follow-up scheduled in spine clinic in ___ weeks for 
re-evaluation and possible discussion of surgical intervention 
with risk/benefit discussion. 

# Delirium, resolving: CT head with intraparenchymal hemorrhage 
remained stable on repeat imaging. Patient reportedly at 
baseline mental status on initial presentation and only became 
increasingly delirious overnight in the ED. Likely delirium in 
the setting of new environment and altered sleep wake-cycle and 
age. Patient also certainly more prone to delirium in the 
setting of `underlying ___ body dementia. Negative infectious 
workup with normal cxr and negative u/a. No other localizing 
symptoms. QtC wnl.

# ___, improving: likely prerenal in the setting of poor po 
intake as renal function has improved with IVF. We encouraged po 
intake and renal function improved during hospital stay. Repeat 
CHEM10 should be obtained on ___.

# CT head with intraparenchymal hemorrhage: remained stable on 
repeat imaging. Neurochecks remained normal. Neurosurgery 
recommended no further follow-up. Aspirin was restarted on 
discharge.

# ___ body dementia: Continued home sertraline, aricipet, and 
memantine.

# TRANSITIONAL ISSUES
- repeat chem10 on ___ to confirm that renal function has 
returned to baseline Cr 1.2
- f/u in ___ spine clinic for re-evaluation
- please maintain soft c-collar as needed for comfort

# CODE STATUS: FULL CODE, confirmed HCP
# CONTACT:  Wife ___ ___
Son ___: Home: ___ Cell: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 25 mg PO DAILY 
2. Donepezil 10 mg PO QHS 
3. Memantine 10 mg PO BID 
4. Aspirin 81 mg PO DAILY 
5. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 

 
Discharge Medications:
1. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
2. Donepezil 10 mg PO QHS 
3. Memantine 10 mg PO BID 
4. Sertraline 25 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: 3.5-mm small right subependymal 
intraparenchymal hemorrhage s/p fall 
Secondary diagnosis: moderate canal narrowing at C5-C7

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted after a recent fall. You were found to have a 
small bleed in your brain. You were seen by neurosurgery and 
there was no indication for surgery. You were also found to have 
some stenosis of your cervical spine. You will be seen in the 
orthopedics clinic once you leave rehab. You were discharged to 
rehab to help you regain your strength.

We wish you all the best.

Sincerely,

Your ___ team
 
Followup Instructions:
___